US09403846B2
Step 4. Synthesis of rel-[(3R,3aR,5R)-5-cyclopropyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazol-3-yl]methanol (C37)
A solution of methyl rel-(3R,3aR,5R)-5-cyclopropyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole-3-carboxylate (C36) (3.30 g, 14.6 mmol) in ethanol (30 mL) and tetrahydrofuran (29 mL) was cooled to 0° C. and treated with sodium borohydride (831 mg, 22.0 mmol). The reaction mixture was allowed to warm to room temperature and stir for 20 minutes at that temperature, then was poured into saturated aqueous ammonium chloride solution. The mixture was extracted with ethyl acetate, and the combined organic layers were washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated in vacuo. Chromatographic purification on silica gel (Eluent: 60% ethyl acetate in heptane) afforded the product as an oil. Yield: 1.95 g, 9.89 mmol, 68%. LCMS m/z 198.1 [M+H+]. 1H NMR (400 MHz, CDCl3) δ 4.67 (br d, J=13.3 Hz, 1H), 4.24-4.31 (m, 1H), 4.13 (d, J=13.3 Hz, 1H), 3.96-4.04 (m, 1H), 3.72 (ddd, J=12.3, 8.8, 3.5 Hz, 1H), 3.38 (ddd, J=10.9, 10.9, 6.6 Hz, 1H), 2.79-2.87 (m, 1H), 2.25 (dd, J=12.9, 6.6 Hz, 1H), 1.80-1.95 (m, 1H), 1.63-1.74 (m, 1H), 0.88-0.99 (m, 1H), 0.50-0.68 (m, 2H), 0.38-0.46 (m, 1H), 0.21-0.29 (m, 1H).

reactant | methyl rel-(3R,3aR,5R)-5-cyclopropyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole-3-carboxylate | 14.6 mmol, 3.30 g | C1(CC1)[C@H]1C[C@@H]2C(=NO[C@H]2C(=O)OC)CO1 | C11H15NO4
reactant | sodium borohydride | 22.0 mmol, 831 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 29 mL | O1CCCC1 | C4H8O
product | rel-[(3R,3aR,5R)-5-cyclopropyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazol-3-yl]methanol | C1(CC1)[C@H]1C[C@@H]2C(=NO[C@H]2CO)CO1 | C10H15NO3
